US07977344B2
2-(Butyloxy)-8-(methyloxy)-9-[2-[(3S)-tetrahydro-3-furanyl]ethyl]-9H-purin-6-amine
Prepared similarly to Intermediate 215 from 2-(butyloxy)-8-(methyloxy)-1H-purin-6-amine trifluoroacetate and (3R)-3-(2-bromoethyl)tetrahydrofuran.

reactant | 2-(butyloxy)-8-(methyloxy)-1H-purin-6-amine trifluoroacetate | FC(C(=O)O)(F)F.C(CCC)OC=1NC(=C2N=C(N=C2N1)OC)N
reactant | (3R)-3-(2-bromoethyl)tetrahydrofuran | BrCC[C@@H]1COCC1 | C6H11BrO
product | 2-(Butyloxy)-8-(methyloxy)-9-[2-[(3S)-tetrahydro-3-furanyl]ethyl]-9H-purin-6-amine | C(CCC)OC1=NC(=C2N=C(N(C2=N1)CC[C@@H]1COCC1)OC)N | C16H25N5O3
